US05534529
N-[(9H-Xanthen-9-yl)methyl]-N'-{2-t-butyl-5-[4-cyclohexyl-3-(t-butyldimethylsilyloxy)butyl]phenyl}urea
A solution of 240 mg (1.00 mmol) of 2-(9H-xanthen-9-yl)acetic acid, 275 mg (1.00 mmol) of diphenylphosphoryl azide and 139 μl (1.00 mmol) of triethylamine in 3 ml of benzene was heated under reflux, with stirring, for 2.5 hours, after which a solution of 459 mg (1.10 mmol) of 2-t-butyl-5-[4-cyclohexyl-3-(t-butyldimethylsilyl-oxy)butyl]aniline in 0.5 ml of benzene was added. The resulting mixture was heated under reflux for 3 hours. At the end of this time, the reaction mixture was diluted with ethyl acetate, and the diluted mixture was washed with dilute aqueous hydrochloric acid, with water, with a saturated aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order. The organic phase was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through 25 g of silica gel, using a 95:5 by volume mixture of methylene chloride and ethyl acetate as the eluent, to give 414 mg (yield 65%) of the title compound as a foam-like material.

reactant | 2-(9H-xanthen-9-yl)acetic acid | 1.00 mmol, 240 mg | C1=CC=CC=2OC3=CC=CC=C3C(C12)CC(=O)O | C15H12O3
reactant | diphenylphosphoryl azide | 1.00 mmol, 275 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.00 mmol, 139 μl | C(C)N(CC)CC | C6H15N
reactant | 2-t-butyl-5-[4-cyclohexyl-3-(t-butyldimethylsilyl-oxy)butyl]aniline | 1.10 mmol, 459 mg | C(C)(C)(C)C1=C(N)C=C(C=C1)CCC(CC1CCCCC1)O[Si](C)(C)C(C)(C)C | C26H47NOSi
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 0.5 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(9H-Xanthen-9-yl)methyl]-N'-{2-t-butyl-5-[4-cyclohexyl-3-(t-butyldimethylsilyloxy)butyl]phenyl}urea | 414 mg, yield 65% | C1=CC=CC=2OC3=CC=CC=C3C(C12)CNC(=O)NC1=C(C=CC(=C1)CCC(CC1CCCCC1)O[Si](C)(C)C(C)(C)C)C(C)(C)C | C41H58N2O3Si
